US05283185
Cholesteryl Bromide (I)
Cholesterol, (25 g, 64.6 mmol) was dissolved in 10 mL of dimethylaniline (78.9 mmol) and 5 mL of chloroform. While stirring on ice; small quantities of thionyl bromide (6 mL, 77.6 mmol) dissolved in 20 mL of cold chloroform was added slowly over a period of 15 minutes. After the addition of thionyl bromide wa complete, the mixture was stirred for an additional 2 hours at room temperature. The resulting solution was poured into 200 mL of ice cold 95% ethanol and left on ice for 2 hour until crystallization was complete. The product was filtered and washed with 25 mL of ice cold 95% ethanol. A small amount of product was recovered from the filtrate with the addition of 75 mL distilled water followed by refrigeration. Finally, the product was recrystallized from 120 mL of acetone giving 21.8 g of cholesteryl bromide (yield, 75%) with a melting point of 93-95%C (lit 97°-98° C.). The identity of the product was confirmed with mass spectrometry (EI) which showed an intense peak with an m/z of 448, corresponding to the molecular ion (M+°) of cholesteryl bromide. Also, the bromide molecular weight pattern characteristic of the two different isotopes of bromine (79Br:81Br,l:1) was observed.

reactant | Cholesterol | 64.6 mmol, 25 g | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
reactant | dimethylaniline | 78.9 mmol, 10 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | thionyl bromide | 77.6 mmol, 6 mL | S(=O)(Br)Br | Br2OS
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | Cholesteryl Bromide | C[C@H](CCCC(C)C)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CC=C4[C@@]3(CC[C@@H](C4)Br)C)C | C27H45Br
